US06677383B1
(E)-1-(4-Methoxyphenyl)-2-methyl-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one
To a stirred solution of 4-methoxybenzaldehyde (1.0 g, 7.3 mmol) and 1-(3,4,5-trimethoxyphenyl)propan-1-one (1.64 g, 7.3 mmol) in methanol (30 ml) was added a 50% w/v solution of aqueous NaOH (1 ml). The mixture was stirred for 24 hours at room temperature, acidified with 2N HCl and extracted with ethyl acetate (3×30 ml). The combined organic phase was dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The product was purified by column chromatography using hexane/ethylacetate (4:1) as eluant, followed by recrystallisation from ethanol to afford the title compound as a pale yellow solid, 0.36 g (14%). 1H-NMR (CDCl3) δ 7.8 (1H, s), 7.6 (2H, m), 7.3 (2H, d), 7.0 (2H, d), 3.9 (9H, s), 3.8 (3H, s), 2.3 (3H, s). Mass Spectrum (FAB) m/e 343 (M+1).

reactant | 4-methoxybenzaldehyde | 7.3 mmol, 1.0 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 1-(3,4,5-trimethoxyphenyl)propan-1-one | 7.3 mmol, 1.64 g | COC=1C=C(C=C(C1OC)OC)C(CC)=O | C12H16O4
reactant | NaOH | 1 ml | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | methanol | 30 ml | CO | CH4O
product | (E)-1-(4-Methoxyphenyl)-2-methyl-3-(3,4,5-trimethoxyphenyl)prop-1-en-3-one | COC1=CC=C(C=C1)\C=C(\C(=O)C1=CC(=C(C(=C1)OC)OC)OC)/C | C20H22O5
